Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Cellulitis, seroma
 
Major Surgical or Invasive Procedure:
___: ___ drain
 
History of Present Illness:
Patients Is a ___ year old female with a recent PMH of abdominal 
hernia repair through a lower midline incison. She had been 
doing fine postop but recently developed a infection at the site 
of her abdominal incision. Additionally, she has developed some 
bulging there. She went to a local ED where they gave her vanc / 
ceftriaxone and her WBC was 16. She proceeded to go home on 
Bactrim and then developed a rash. She is here for direct 
admission for management of potentially infeceted seroma. 
Bedside aspiration attempted on arrival by Dr. ___ 10 cc 
murky fluid withdrawn and sent for culture.

 
Past Medical History:
None
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Physical exam at admission:
Afeb. VSS
NAD
Nonlabored resps
General body drug rash
100 cc seroma palpable at the lower transverse abdominal 
incision
line with some surrounding erythema representing possible
cellulitis.

 
Pertinent Results:
___ 10:43PM   WBC-14.3* RBC-3.28* HGB-10.4* HCT-30.1* 
MCV-92 MCH-31.7 MCHC-34.6 RDW-12.1 RDWSD-40.8
___ 10:43PM   NEUTS-83.4* LYMPHS-8.6* MONOS-4.5* EOS-3.1 
BASOS-0.1 IM ___ AbsNeut-11.91* AbsLymp-1.23 AbsMono-0.65 
AbsEos-0.44 AbsBaso-0.02
___ 10:43PM   PLT COUNT-293
.
Radiology Report US ABD LIMIT, SINGLE ORGAN Study Date of 
___ 4:22 ___ 
IMPRESSION:  
5.2 x 1.0 x 8.4 cm anterior abdominal wall collection. 
.
Radiology Report US INTERVENTIONAL PROCEDURE Study Date of 
___ 5:14 ___ 
IMPRESSION:  
Successful US-guided placement of ___ pigtail catheter into 
the anterior abdominal wall collection. 
.
MICROBIOLOGY:

___ 9:56 pm SWAB      Source: abdominal wound. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

 
Brief Hospital Course:
The patient was admitted to the ___ plastic surgery service on 
___ for cellulitis/seroma after undergoing an abdominoplasty 
10 days prior.  
. 
Neuro: The patient's pain was well controlled on tylenol and 
motrin during her hospitalization.   
. 
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored. 
. 
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored. 
. 
GI/GU: ___ was initially made NPO for her ___ drainage. 
Thereafter, she was allowed to have a regular diet. She had no 
foley catheter during her hospitalization. 
. 
ID: ___ was started on IV vancomycin upon admission and GPCs 
were visualized on gram stain for her wound culture. She was 
given a Medrol taper for a presumed drug reaction from prior 
antibiotics (likely Bactrim) she had received. She responded 
well to the steroids. The patient's temperature was closely 
watched for signs of infection. ___ would have an ___ ___ 
drain placed on ___ under ultrasound guidance for drainage 
of her seroma. Upon placement, 50cc of turbid fluid were 
evacuated. Final culture data revealed pansensitive MSSA and 
patient was discharged home on dicloxacillin x 14 days.
. 
Prophylaxis: The patient received pneumoboots during her 
hospital stay, and was encouraged to get up and ambulate as 
early as possible.  
. 
At the time of discharge on HD#4, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled. 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain / fever 
2. Ibuprofen 600 mg PO Q8H:PRN pain / fever 
3. DiCLOXacillin 500 mg PO Q6H Duration: 14 Days 
RX *dicloxacillin 500 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*56 Capsule Refills:*0
4. Methylprednisolone 4 mg PO DAILY Duration: 1 Day 
4mg once ___ BID ___ 
Tapered dose - DOWN 
RX *methylprednisolone 4 mg As directed tablet(s) by mouth as 
directed Disp #*2 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Abdominal Seroma/abscess/cellulitis
2) drug reaction: Bactrim

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ Drain Care:
-Please look at the site every day for signs of infection
(increased redness or pain, swelling, odor, yellow or bloody
discharge, warm to touch, fever).
-Note color, consistency, and amount of fluid ___ the drain. Call
the doctor, ___, or ___ nurse if the amount
increases significantly or changes ___ character.
-Be sure to empty the drain bag or bulb frequently. Record the
output daily. You should have a nurse doing this for you while 
___
the hospital.
-You may shower; wash the area gently with warm, soapy water.
-Keep the insertion site clean and dry otherwise.
-Avoid swimming, baths, hot tubs; do not submerge yourself ___
water.
-Change the dressing daily. Cleanse skin with ___ strength
hydrogen peroxide. Rinse with saline moistened q-tip. Apply a
DSD. 
-Catheter Flushing: Flush and aspirate.
 Flush with 10cc sterile saline and spirate back.
 Do not continue to flush if the volume out is significantly 
less
than the volume ___.
If there is pain with flushing this may mean that the abscess
cavity has collapsed. Notify the Radiologist: ___ p.
___ out-patient call ___.
-Catheter Security: Every shift check the patency of tube and
that the tube and drainage bag are secured to the patient.
For questions regarding care of catheter call: ___
___ out-patient call ___. 
Troubleshooting: If catheter stops draining suddenly:
1) Check that the stopcock is open.
2) Remove dressing carefully and inspect to make sure that there
is no kink ___ the catheter.
3) inspect to be sure that there is no debris blocking the
catheter. If there is, then firmly flush 5 cc of sterile saline
into the catheter. 
- If you develop worsening abdominal pain, fevers or chills
please call your surgeon or Interventional Radiology at ___ at
___ and page ___.
 
Followup Instructions:
___